US09216980B2
Step 3: 3-Bromo-6-chloro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A solution of 5-bromo-6′-chloro-2-fluoro-[3,4]bipyridinyl-3′-ylamine (2.21 g, 7.32 mmol) in THF (124 mL) was added dropwise over 10 minutes to sodium bis-(trimethylsilyl)amide (1N solution in THF, 14.6 mL, 14.6 mmol). The reaction mixture was stirred for 1 h at ambient temperature and then quenched by the addition of water (2 mL). The resultant brown solution was partitioned between ethyl acetate (75 mL) and brine (50 mL). An off-white solid precipitated and was collected by filtration to afford the title compound as a grey solid (1.01 g, 49%). 1H NMR (DMSO-D5, 300 MHz): 9.01 (d, J=2.3 Hz, 1H), 8.73 (s, 1H), 8.70 (d, J=2.3 Hz, 1H), 8.35 (s, 1H). LCMS (Method B): RT=3.33 min, M+H+=284.

reactant | 5-bromo-6′-chloro-2-fluoro-[3,4]bipyridinyl-3′-ylamine | 7.32 mmol, 2.21 g | BrC=1C=C(C(=NC1)F)C1=C(C=NC(=C1)Cl)N | C10H6BrClFN3
reactant | sodium bis-(trimethylsilyl)amide | 14.6 mmol, 1N, 14.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 124 mL | C1CCOC1 | C4H8O
product | 3-Bromo-6-chloro-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 1.01 g, 49% | BrC1=CC2=C(NC3=C2C=C(N=C3)Cl)N=C1 | C10H5BrClN3
